US06417212B1
A. 2-Methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid ethyl ester
A solution of 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid ethyl ester (0.907 mmol) (see Ex. 2, part B) and 1-naphthaleneboronic acid (0.998 mmol) in toluene:ethanol (18.2 mL of a 1:1 solution) was treated with Na2CO3(aq) (0.906 mL of a 2M solution). A nitrogen atmosphere was applied, Pd(PPh3)4 (52.5 mg) was added, and the orange mixture was heated at reflux for 2 h. After cooling to room temperature, the mixture was partitioned between ethyl acetate (20 mL) and H2O (30 mL). The layers were separated, and the aqueous phase was back-extracted with ethyl acetate (2×10 mL). Combined organic phases were washed with brine (20 mL), dried over Na2SO4 and concentrated. The product was purified by silica gel chromatography (20 g SiO2, 3:7 ethyl acetate:hexanes) to give the desired product in 87% as an orange oil; Rf=0.46 in 1:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ8.09 (d, J=8 Hz, 2H), 7.92-7.82 (m, 3H), 7.59-7.40 (m, 6H), 6.81-6.72 (m, 4H), 4.22-4.17 (m, 4H), 2.98 (t, 2H), 2.38 (s, 3H), 1.46 (s, 6H), 1.22 (t, 3H); MS (EI) 536.3 (M+H)+.

reactant | 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid ethyl ester | 0.907 mmol | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | 1-naphthaleneboronic acid | 0.998 mmol | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | ethanol | C(C)O | C2H6O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 52.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12)C)=O | C34H33NO5
